US07858796B2
To a stirred solution of indoline (250 g, 2.1 mol) and triethylamine (28.9 mL, 0.21 mol) in dichloromethane (2.5 L) at 0° C. was added portionwise di-tert-butyl dicarbonate (458 g, 2.1 mol). The mixture was stirred at 0° C. for 5 h then allowed to warm to room temperature and left to stir overnight. The mixture washed with 1N citric acid (1 L), saturated sodium bicarbonate (1 L), and brine (1 L). The organic phase was dried (MgSO4), filtered, and the solvent was removed under reduced pressure to afford an oil which crystallised upon standing. The crude compound was purified by distillation (bp 110° C./0.3 mmHg) to afford 392 g (85%) of tert-butyl indoline-1-carboxylate.

reactant | indoline | 2.1 mol, 250 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | TEA | 0.21 mol, 28.9 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 2.1 mol, 458 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 2.5 L | ClCCl | CH2Cl2
product | tert-butyl indoline-1-carboxylate | 392 g, 85% | N1(CCC2=CC=CC=C12)C(=O)OC(C)(C)C | C13H17NO2
